US07728155B2
Treatment of (+)-benzyl (5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methylcarbamate (0.93 g, 2.74 mmol) with palladium on carbon (10%, 0.093 g) generally according to the procedure described for Example 2 afforded 0.427 g (65%) of (+)-1-(3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine as a white solid, hydrochloride salt. [α]D25=+48.0 (c 10.0 in methanol); mp>220° C.; Anal. calcd. for C13H17NOHCl.0.1H2O: C, 64.64; H, 7.59; N, 5.80. Found: C, 64.63; H, 7.63; N, 5.76.

reactant | (+)-benzyl (5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methylcarbamate | 2.74 mmol, 0.93 g | CC1=CC2=C(OC(C2)CNC(OCC2=CC=CC=C2)=O)C=2CCCC12 | C21H23NO3
catalyst | palladium on carbon | 0.093 g | [Pd] | Pd
product | (+)-1-(3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine | 0.427 g, 65% | O1C2=C(CC1CN)C=CC=1CCCC12 | C12H15NO
